US09108939B2
C: 1-(4-(1-(1-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)-1-methoxyethyl)phenyl)-3-(2-hydroxy-2-methylpropyl)urea
2-(4-((4-(1-(4-Aminophenyl)-1-hydroxyethyl)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (0.252 mmol, 120 mg) and 4-nitrophenyl chloroformate (0.252 mmol, 50.8 mg) were combined in tetrahydrofuran (2 mL) and the reaction stirred at room temperature for 1 hour. 1-Amino-2-methylpropan-2-ol (0.252 mmol, 22.45 mg) and triethylamine (0.756 mmol, 76 mg) were added and the mixture stirred at room temperature overnight. The mixture was concentrated under reduced pressure and the resulting residue purified by HPLC then treated with strong cation exchange column chromatography. The resulting product was purified by silica gel column chromatography (eluting with 2% to 15% methanol/dichloromethane) to afford the title compound (40 mg). MS (ESI) m/z 606.2 [M+H]+

reactant | 2-(4-((4-(1-(4-Aminophenyl)-1-hydroxyethyl)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 0.252 mmol, 120 mg | NC1=CC=C(C=C1)C(C)(O)C1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C23H26F6N2O2
reactant | 4-nitrophenyl chloroformate | 0.252 mmol, 50.8 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 1-Amino-2-methylpropan-2-ol | 0.252 mmol, 22.45 mg | NCC(C)(O)C | C4H11NO
reactant | triethylamine | 0.756 mmol, 76 mg | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 1-(4-(1-(1-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)-1-methoxyethyl)phenyl)-3-(2-hydroxy-2-methylpropyl)urea | 40 mg | FC(C(C(F)(F)F)(O)C1=CC=C(CN2CCC(CC2)C(C)(OC)C2=CC=C(C=C2)NC(=O)NCC(C)(C)O)C=C1)(F)F | C29H37F6N3O4
